US07253286B2
N-(2-Chloro-4-((6-cyano-7-((1-methyl-4-piperidyl)methoxy)-4-quinolyl)oxy)phenyl)-N′-methylurea
After dissolving N-(2-chloro-4-((6-cyano-7-(4-piperidylmethoxy)-4-quinolyl)oxy)phenyl)-N′-methylurea (15 mg) in tetrahydrofuran (0.5 ml) and methanol (0.5 ml), there were added 37% aqueous formaldehyde (0.03 ml), acetic acid (0.06 ml) and sodium cyanoborohydride (5.0 mg) at room temperature, and the mixture was stirred for 1 hour. Water was added to the reaction solution, saturated aqueous sodium bicarbonate was added for neutralization, and extraction was performed with ethyl acetate. The organic layer was washed with water and the solvent was distilled off to obtain a crude product. This was recrystallized with ethyl acetate to obtain the title compound (10 mg) as white crystals.

reactant | N-(2-chloro-4-((6-cyano-7-(4-piperidylmethoxy)-4-quinolyl)oxy)phenyl)-N′-methylurea | 15 mg | ClC1=C(C=CC(=C1)OC1=CC=NC2=CC(=C(C=C12)C#N)OCC1CCNCC1)NC(=O)NC | C24H24ClN5O3
reactant | formaldehyde | 0.03 ml | C=O | CH2O
reactant | sodium cyanoborohydride | 5.0 mg | C(#N)[BH3-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
solvent | methanol | 0.5 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
solvent | acetic acid | 0.06 ml | C(C)(=O)O | C2H4O2
product | N-(2-Chloro-4-((6-cyano-7-((1-methyl-4-piperidyl)methoxy)-4-quinolyl)oxy)phenyl)-N′-methylurea | 10 mg | ClC1=C(C=CC(=C1)OC1=CC=NC2=CC(=C(C=C12)C#N)OCC1CCN(CC1)C)NC(=O)NC | C25H26ClN5O3
